US07365095B2
A solution of [8-(2-chlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl 4-methylbenzenesulfonate, prepared in Example 1, step 7 (0.25 g, 0.58 mmol) and sodium azide (0.15 g, 2.3 mmol) in anhydrous dimethyl sulfoxide (9.5 mL) was heated to 70° C. under nitrogen for 16 hours. The cooled reaction mixture was then diluted with diethyl ether (50 mL), washed with water (5×25 mL) and saturated brine (25 mL), dried over magnesium sulfate, filtered and concentrated under reduced pressure to afford 0.14 g (82%) of 2-azidomethyl-8-(2-chloro-phenyl)-chroman as a colorless oil that was used without further purification.

reactant | [8-(2-chlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C=CC=C2CC1)C1=C(C=CC=C1)Cl | C23H21ClO4S
reactant | sodium azide | 2.3 mmol, 0.15 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethyl sulfoxide | 9.5 mL | CS(=O)C | C2H6OS
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 2-azidomethyl-8-(2-chloro-phenyl)-chroman | 0.14 g, 82% | N(=[N+]=[N-])CC1OC2=C(C=CC=C2CC1)C1=C(C=CC=C1)Cl | C16H14ClN3O
